US05667946
Preparation of 3-(2-Chloro-4-dodecylsulfonylanilino)-4,5-dihydro-5-oxo-1-(4-chlorophenyl)-1H-pyrazole
A stirred mixture of 2-chloro- 4-dodecylsulfonylaniline (21.9 g, 0.061 moles), ethyl 3,3,3-trimethoxypropionate (11.7 g, 0.061 moles) and toluene (100 ml) was heated in an oil-bath at 110° C. until solution was attained. Concentrated sulfuric acid (4 drops) was added and the stirred mixture was heated for 2-25 hours allowing volatiles to distill off. The solution was cooled and the solvent was removed on the rotavapor to leave an oil. The oil was dissolved in glacial acetic acid (100 ml) and 4-chlorophenylhydrazine (8.7 g, 0.061 moles) was added. The mixture was stirred at room temperature for 22 hours. Then the resulting solid was filtered off, washed with methanol and dried. The solid was purified by trituration with ethyl acetate to give the product as a pale yellow solid weighing 20.1 g (60%).

reactant | 2-chloro- 4-dodecylsulfonylaniline | 0.061 moles, 21.9 g | ClC1=C(N)C=CC(=C1)S(=O)(=O)CCCCCCCCCCCC | C18H30ClNO2S
reactant | ethyl 3,3,3-trimethoxypropionate | 0.061 moles, 11.7 g | COC(CC(=O)OCC)(OC)OC | C8H16O5
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-chlorophenylhydrazine | 0.061 moles, 8.7 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-(2-Chloro-4-dodecylsulfonylanilino)-4,5-dihydro-5-oxo-1-(4-chlorophenyl)-1H-pyrazole | ClC1=C(NC2=NN(C(C2)=O)C2=CC=C(C=C2)Cl)C=CC(=C1)S(=O)(=O)CCCCCCCCCCCC | C27H35Cl2N3O3S
